US08039472B2
(R)-2-tert-Butoxycarbonylamino-5-(4-tert-butoxy-phenyl)-pentanoic acid ethyl ester is prepared according to the procedure of Ding, Chuanyong.; Ma, Rujian.; Rong, Guobin. Preparation of w-Phenyl-(2S)—N-Boc-amino Acid Ethyl esters; Chinese Journal of Organic Chemistry Vol 26(12) 2006, 1694 &1695, replacing Ethyl Boc-L-pyroglutamate with Ethyl Boc-D-pyroglutamate & Bromomethyl-benzene with 1-Bromo-4-tert-butoxy-benzene in Example 2a, using preparation steps 2.2, 2.3, and 2.5; [M+H]+ 394

reactant | Ethyl Boc-D-pyroglutamate | C(=O)(OC(C)(C)C)N1[C@H](CCC1=O)C(=O)OCC | C12H19NO5
reactant | Bromomethyl-benzene | BrCC1=CC=CC=C1 | C7H7Br
reactant | 1-Bromo-4-tert-butoxy-benzene | BrC1=CC=C(C=C1)OC(C)(C)C | C10H13BrO
product | (R)-2-tert-Butoxycarbonylamino-5-(4-tert-butoxy-phenyl)-pentanoic acid ethyl ester | C(C)OC([C@@H](CCCC1=CC=C(C=C1)OC(C)(C)C)NC(=O)OC(C)(C)C)=O | C22H35NO5
